US06897231B2
A. 3-(4-Chlorophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile
The title compound was prepared as described in Example 161, using 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.400 g, 1.30 mmol), in ethylene glycol dimethyl ether (10 mL), 4-chlorophenyl boronic acid (0.306 g, 1.96 mmol), [1,1′-bis(diphenylphosphino)-ferrocene] complex with dichloromethane (1:1) (0.150 g, 0.130 mmol), and potassium phosphate (1.38 g, 6.5 mmol): (0.351 g, 80% yield): ES-MS (m/z) 338 [M+1]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 1.30 mmol, 0.400 g | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
reactant | 4-chlorophenyl boronic acid | 1.96 mmol, 0.306 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | dichloromethane | 0.130 mmol, 0.150 g | ClCCl | CH2Cl2
reactant | potassium phosphate | 6.5 mmol, 1.38 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethylene glycol dimethyl ether | 10 mL | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-(4-Chlorophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 80% yield | ClC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H16ClN3O
